US07037911B2
Step A: (2S, 4R)-4-Methyl-5-oxo-pyrrolidine-1,2,4-tricarboxylic acid 4-benzyl ester 1-tert-butyl ester 2-methyl ester.
To a solution of (2S)-5-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (6.0 g, 24.9 mmol) in THF (100 mL) at −78° C. was added LHMDS (1.0 M in THF, 27.13 mL). After 15 min stirring at −78° C., MeOTf (2.93 mL, 1.05 eq) was added slowly. The mixture was stirred at −78° C. for 30 min before a second portion of LHMDS (27.13 mL) was added. After 20 min stirring, benzyl chloroformate (4.42 mL, 1.25 eq) was added. The mixture was stirred at −78° C. for 2.0 h, and was quenched with 5% citric acid. Removal of solvent, extraction with EtOAC and column chromatography gave the product as a white solid (7.3 g, 75%). 1HNMR (300 MHz, CDCl3) δ 7.38 (m, 5H), 5.2 (m, 2H), 4.6 (m, 1H), 3.8 (s, 3H), 2.87 (dd, 1H, 13.6, 8.8 Hz), 1.88 (dd, 1H, J=13.6; 6.6 Hz), 1.6 (s, 3H), 1.5 (s, 9H).

reactant | (2S)-5-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 24.9 mmol, 6.0 g | COC(=O)[C@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C11H17NO5
reactant | LHMDS | 1.0 M, 27.13 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | MeOTf | 2.93 mL, 1.05 eq | COS(=O)(=O)C(F)(F)F | C2H3F3O3S
reactant | LHMDS | 27.13 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | benzyl chloroformate | 4.42 mL, 1.25 eq | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (2S, 4R)-4-Methyl-5-oxo-pyrrolidine-1,2,4-tricarboxylic acid 4-benzyl ester 1-tert-butyl ester 2-methyl ester | 7.3 g, 75% | COC(=O)[C@H]1N(C([C@@](C1)(C(=O)OCC1=CC=CC=C1)C)=O)C(=O)OC(C)(C)C | C20H25NO7
